US05506351
N2-Isobutyryl-2'-O-pentylguanosine
2'-O-pentylguanosine (2.3 g) in pyridine (35 ml) was treated with trimethylsilyl chloride (4.15 ml, 5 eq) and isobutyryl chloride (3.4 ml, 5 eq) as per the procedure of Example 4 to yield the product as a foam (2.3 g). An analytical sample was crystallized from EtOAc/Hex. m.p. 178°-180° C. 1H NMR (DMSO-d6) δ 0.75 (t, 3, CH3), 1.1 [m, 10, 2×CH2, CH(CH3)2 ], 1.4 (m, 2, CH2), 2.74 [m, 1, CH(CH3)2 ], 3.56 (m, 4, OCH2, H-5), 3.93 (m, 1, H-4'), 4.25 (m, 1), 4.34 (m, 1), 5.05 (t, 1, 5'-OH), 5.17 (d, 1, 3'-OH), 5.88 (d, 1, H-1'), 8.27 (s, 1, H-8), 11.65 (br s, 1, NH) and 12.05 (br s, 1, NH). Anal. Calcd. for C19H29N5O6 : C, 53.89; H, 6.90; N, 16.54. Found: 53.75; H, 6.92; N, 16.40

reactant | 2'-O-pentylguanosine | 2.3 g | C(CCCC)O[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C=NC=2C(=O)NC(N)=NC12 | C15H23N5O5
reactant | trimethylsilyl chloride | 4.15 ml, 5 eq | C[Si](C)(C)Cl | C3H9ClSi
reactant | isobutyryl chloride | 3.4 ml, 5 eq | C(C(C)C)(=O)Cl | C4H7ClO
solvent | pyridine | 35 ml | N1=CC=CC=C1 | C5H5N
product | N2-Isobutyryl-2'-O-pentylguanosine | 2.3 g | C(C(C)C)(=O)NC=1NC(C=2N=CN([C@H]3[C@H](OCCCCC)[C@H](O)[C@@H](CO)O3)C2N1)=O | C19H29N5O6
